data/polar.json
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:7]1([Cl:27])=[C:8]([Cl:28])[C:10](=[O:13])[C:20]([C:29]#[N:31])=[C:21]([C:30]#[N:32])[C:9]1=[O:12].[cH:1]1[cH:15][cH:18][c:14]([B-:2]2([CH2:17][CH:11]=[CH2:24])[O:25][C:22]([CH3:3])([CH3:4])[C:23]([CH3:5])([CH3:6])[O:26]2)[cH:19][cH:16]1>>[cH:1]1[cH:15][cH:18][c:14]([B-:2]2([CH2:17][CH+:11][CH2:24][C:20]3([C:29]#[N:31])[C:10](=[O:13])[C:8]([Cl:28])=[C:7]([Cl:27])[C:9]([O-:12])=[C:21]3[C:30]#[N:32])[O:25][C:22]([CH3:3])([CH3:4])[C:23]([CH3:5])([CH3:6])[O:26]2)[cH:19][cH:16]1", "epd": [["Pi-/Sigma+", [24, 11], [24, 20]], ["Pi-/Pi+", [20, 21], [21, 9]], ["Pi-/LP+", [9, 12], [12]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH2:1]1[CH2:8][CH2:3][NH:22][C:6]2=[N:26][CH2:2][CH2:11][CH2:18][N:14]12.[CH3:4][O:5][c:7]1[cH:27][cH:15][c:13]([CH:23]=[C:21]2[CH:24]=[C:9]([Br:19])[C:12](=[O:17])[C:10]([Br:20])=[CH:25]2)[cH:16][cH:28]1>>[CH2:1]1[CH2:8][CH2:3][NH:22][C:6]2=[N+:14]1[CH2:18][CH2:11][CH2:2][N:26]2[CH:23]([c:13]1[cH:15][cH:27][c:7]([O:5][CH3:4])[cH:28][cH:16]1)[c:21]1[cH:24][c:9]([Br:19])[c:12]([O-:17])[c:10]([Br:20])[cH:25]1", "epd": [["LP-/Pi+", [14], [6, 14]], ["Pi-/Sigma+", [26, 6], [26, 23]], ["Pi-/Pi+", [23, 21], [21, 24]], ["Pi-/Pi+", [24, 9], [9, 12]], ["Pi-/LP+", [12, 17], [17]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:23]([n:7][o:36][n+:35]1[O-:4])[n:22][c:20]([O:29][CH3:21])[n:8][cH:33]2.[cH:2]1[cH:17][cH:27][c:37]([N:19]2[C:5](=[C:24]([c:3]3[cH:11][cH:38][cH:6][cH:39][cH:12]3)[O:9][CH3:40])[N:10]([c:44]3[cH:15][cH:31][cH:26][cH:32][cH:16]3)[N:41]=[C:30]2[c:25]2[cH:42][cH:13][cH:34][cH:14][cH:43]2)[cH:28][cH:18]1>>[c:1]12[c:23]([n:7][o:36][n+:35]1[O-:4])[N:22]=[C:20]([O:29][CH3:21])[N-:8][CH:33]2[C:24]([c:3]1[cH:11][cH:38][cH:6][cH:39][cH:12]1)([c:5]1[n+:10](-[c:44]2[cH:15][cH:31][cH:26][cH:32][cH:16]2)[n:41][c:30](-[c:25]2[cH:42][cH:13][cH:34][cH:14][cH:43]2)[n:19]1-[c:37]1[cH:27][cH:17][cH:2][cH:18][cH:28]1)[O:9][CH3:40]", "epd": [["LP-/Pi+", [10], [5, 10]], ["Pi-/Sigma+", [24, 5], [24, 33]], ["Pi-/LP+", [33, 8], [8]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:2][C:7](=[C:4]=[N-:12])[c:13]1[cH:16][cH:21][cH:26][cH:22][cH:17]1.[cH:1]1[cH:3][cH:15][cH:6][c:8]2[c:5]1[N+:23]([CH3:10])=[CH:14][C:11]2=[CH:9][c:20]1[cH:18][cH:24][cH:27][cH:25][cH:19]1>>[cH:1]1[cH:3][cH:15][cH:6][c:8]2[c:5]1[n:23]([CH3:10])[cH:14][c:11]2[CH:9]([C:7]([CH3:2])([C:4]#[N:12])[c:13]1[cH:16][cH:21][cH:26][cH:22][cH:17]1)[c:20]1[cH:18][cH:24][cH:27][cH:25][cH:19]1", "epd": [["LP-/Pi+", [12], [4, 12]], ["Pi-/Sigma+", [7, 4], [7, 9]], ["Pi-/Pi+", [9, 11], [11, 14]], ["Pi-/LP+", [14, 23], [23]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH3:2][CH2:6][O:5][C:18]([CH:3]=[C:7]([CH3:19])[N:27]=[N:14][C:4](=[O:15])[NH:17][c:20]1[cH:24][cH:12][cH:21][cH:13][cH:25]1)=[O:16].[NH:1]1[CH:8]([C:26](=[O:10])[O-:22])[CH2:11][CH2:23][CH2:9]1>>[NH+:1]1([CH:3]([C:7]([CH3:19])=[N:27][N:14]=[C:4]([O-:15])[NH:17][c:20]2[cH:24][cH:12][cH:21][cH:13][cH:25]2)[C:18]([O:5][CH2:6][CH3:2])=[O:16])[CH:8]([C:26](=[O:10])[O-:22])[CH2:11][CH2:23][CH2:9]1", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Pi-/Pi+", [3, 7], [7, 27]], ["Pi-/Pi+", [27, 14], [14, 4]], ["Pi-/LP+", [4, 15], [15]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:4][CH:10]([CH3:5])[N+:23]1=[N:24][N:22]([CH:6]([CH3:25])[CH3:26])[C:27](=[CH2:21])[C-:7]1[C:9]([CH3:28])([CH3:29])[CH3:30].[O:1]([S:8][C:20]([F:13])([F:14])[F:15])[C:11]([CH3:18])([CH3:19])[c:31]1[cH:2][cH:16][cH:12][cH:17][cH:3]1>>[CH3:4][CH:10]([CH3:5])[n+:23]1[c:7]([C:9]([CH3:28])([CH3:29])[CH3:30])[c:27]([CH2:21][S:8][C:20]([F:13])([F:14])[F:15])[n:22]([CH:6]([CH3:25])[CH3:26])[n:24]1.[O-:1][C:11]([CH3:18])([CH3:19])[c:31]1[cH:2][cH:16][cH:12][cH:17][cH:3]1", "epd": [["LP-/Pi+", [7], [27, 7]], ["Pi-/Sigma+", [21, 27], [21, 8]], ["Sigma-/LP+", [8, 1], [1]]]}
{"reaction_name": "Vinylic nucleophilic substitution", "rsmi": "[CH2:3]=[CH:4][Cl:5].[O-:1][CH3:2]>>[Cl-:5].[O:1]([CH3:2])[CH:4]=[CH2:3]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:28][CH3:27])[c:31]1[cH:16][cH:14][cH:5][cH:15][cH:17]1.[N:1]([CH2:3][c:10]1[cH:11][cH:8][cH:18][cH:9][cH:12]1)([C:25]#[C:19][CH2:4][CH3:13])[S:26](=[O:20])(=[O:21])[c:22]1[cH:6][cH:23][c:29]([CH3:30])[cH:24][cH:7]1>>[N+:1]([CH2:3][c:10]1[cH:11][cH:8][cH:18][cH:9][cH:12]1)(=[C:25]=[C:19]([CH:2]([O:28][CH3:27])[c:31]1[cH:16][cH:14][cH:5][cH:15][cH:17]1)[CH2:4][CH3:13])[S:26](=[O:20])(=[O:21])[c:22]1[cH:6][cH:23][c:29]([CH3:30])[cH:24][cH:7]1", "epd": [["LP-/Pi+", [1], [25, 1]], ["Pi-/Sigma+", [19, 25], [19, 2]], ["Pi-/LP+", [2, 28], [28]]]}
